US08912181B2
EDCI hydrochloride (18.4 g) and 1-hydroxybenzotriazole (9.5 g) were added to a solution of 2-amino-3-iodobenzoic acid (16.4 g) synthesized using the method described in Journal of Medicinal Chemistry, 2004, 47 (6), 1448-1464 in DMF (120 mL), and subsequently ammonia water (21.2 ml) was added thereto. The reaction solution was stirred at room temperature for 3 hours. Water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 2-amino-3-iodobenzamide (12.8 g). 60% sodium hydride (2.29 g) was added to a solution of the obtained 2-amino-3-iodobenzamide (5.0 g) in ethanol (95 ml), then ethyl trifluoroacetate (10.8 g) was added thereto, and the mixture was heated to reflux for 15 hours. After cooling, water was added thereto, and the reaction solution was rendered acidic by the addition of 6 N hydrochloric acid. Then, the deposit was filtrated and dried under reduced pressure to obtain compound (4a) (6.4 g, yield based on 2 steps: 77%).

reactant | EDCI hydrochloride | 18.4 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole | 9.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-amino-3-iodobenzoic acid | 16.4 g | NC1=C(C(=O)O)C=CC=C1I | C7H6INO2
reactant | ammonia water | 21.2 ml | O.N
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-amino-3-iodobenzamide | 12.8 g | NC1=C(C(=O)N)C=CC=C1I | C7H7IN2O
